US08729068B2
A mixture of 734 mg of methyl trans-4-(isopropylamino)cyclohexane carboxylate hydrochloride, 0.90 mL of triethylamine, and 10 mL of dichloromethane was stirred at room temperature for 30 minutes, and 10 mL of pyridine and 1.00 g of 2-(trimethylsilyl)ethyl 3-(chlorosulfonyl)benzoate were added thereto in this order, followed by stirring at room temperature overnight. The reaction mixture was concentrated under reduced pressure, and to the residue was added an aqueous citric acid solution, followed by extraction with ethyl acetate. The organic layer was washed with saturated brine, then dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane-ethyl acetate) to obtain 311 mg of 2-(trimethylsilyl)ethyl 3-{isopropyl[trans-4-(methoxycarbonyl)cyclohexyl]sulfamoyl}benzoate as a pale yellow solid. ESI+: 484

reactant | methyl trans-4-(isopropylamino)cyclohexane carboxylate hydrochloride | 734 mg | Cl.C(C)(C)N[C@@H]1CC[C@H](CC1)C(=O)OC
reactant | triethylamine | 0.90 mL | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 10 mL | ClCCl | CH2Cl2
reactant | 2-(trimethylsilyl)ethyl 3-(chlorosulfonyl)benzoate | 1.00 g | ClS(=O)(=O)C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1 | C12H17ClO4SSi
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | 2-(trimethylsilyl)ethyl 3-{isopropyl[trans-4-(methoxycarbonyl)cyclohexyl]sulfamoyl}benzoate | 311 mg | C(C)(C)N(S(=O)(=O)C=1C=C(C(=O)OCC[Si](C)(C)C)C=CC1)[C@@H]1CC[C@H](CC1)C(=O)OC | C23H37NO6SSi
